US05189054
Scheme I, step d2 : 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole
Mix 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole (2 g, 4.8 mmol), di-tert-butyl dicarbonate (1 g, 4.8 mmol), tetrahydrofuran (90 mL), dimethylaminopyridine (42 mg, 0.3 mmol) and stir at room temperture for 1 hour. Dilute with ethyl acetate (100 mL), wash with water, saturated sodium chloride, dry orver magnesium sulfate, filter and concentrate in vacuo. Recrystallize the residue from ethyl acetate/hexane to yield the title compound (2.3 g, 94%).

reactant | 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 4.8 mmol, 2 g | ClC1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H15Cl3N2O3
reactant | di-tert-butyl dicarbonate | 4.8 mmol, 1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | dimethylaminopyridine | 0.3 mmol, 42 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | 3-[(p-chlorophenacyl)amino]-2-carbethoxy-4,6-dichloro-1-(tert-butyloxycarbonyl)-indole | 2.3 g, 94% | ClC1=CC=C(C(CNC2=C(N(C3=CC(=CC(=C23)Cl)Cl)C(=O)OC(C)(C)C)C(=O)OCC)=O)C=C1 | C24H23Cl3N2O5
